US05164388
CBZ-D-Phe-Gly-OMe (9.5 9. 26 mmol) was dissolved in MeOH (150 ml) and subjected to hydrogenolysis in the presence of 10% Pd/C (1 g) and H2 -atmosphere (balloon filled with H2) for 4 h at room temperature. At the end, the catalyst was removed by filtration through a celite bed and the removal of MeOH under reduced pressure gave 6 g of D-Phe-Gly-OMe (≈100%, crude yield).

reactant | CBZ-D-Phe-Gly-OMe | 26 mmol | N([C@H](CC1=CC=CC=C1)C(=O)NCC(=O)OC)C(=O)OCC1=CC=CC=C1 | C20H22N2O5
solvent | MeOH | 150 ml | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | D-Phe-Gly-OMe | 6 g, ≈100% | N[C@H](CC1=CC=CC=C1)C(=O)NCC(=O)OC | C12H16N2O3
